US05990312
In later references Anhydroecgonine and esters thereof have been prepared by hydrolysis of cocaine in aqueous hydrochloric acid followed by dehydration with phosphorus oxychloride (J. Amer. Chem. Soc., 82 (1960), page 4643 and EP-A1-604 355 ). Although both the hydrolysis of cocaine and the dehydration of ecgonine produces high yields, it is a serious drawback to this method that the reaction mixture becomes syrupy during the dehydration step which makes stirring almost impossible. Using SOCl2 as dehydrating agent causes similar problems.

reactant | Anhydroecgonine | CN1C2CCC1C(=CC2)C(=O)O | C9H13NO2
reactant | cocaine | CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)OC(=O)C=3C=CC=CC3)C(=O)OC | C17H21NO4
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | hydrochloric acid | Cl | ClH
product | ecgonine | CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)O)C(=O)O | C9H15NO3
